US05112966
To a solution of (3S,4S)-4-(1-chloromethylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone (320 g) in a mixture of acetonitrile and water (9 : 1) (3.8 liters) was added a solution of ceric ammonium nitrate (702 g) in a mixture of acetonitrile and water (9 : 1) (2 liters) at 5° C. or lower, followed by stirring for 30 minutes. The reaction mixture was diluted with water (5.2 liters) and extracted with ethyl acetate (3.4 liters). The aqueous layer was extracted with a mixture of ethyl acetate (1.7 liters), diethyl ether (1.7 liters) and benzene (1.7 liters). The combined extracts were washed successively with brine, 5l% sodium bicarbonate and brine, and dried over anhydrous sodium sulfate. Filtration and concentration of the filtrate in vacuo gave an oily residue, which was dissolved in methanol (1.5 liters) with warming and allowed to cool gradually. After filtration to remove crystals, the filtrate was concentrated in vacuo to give an oily residue, which was purified by silica gel chromatography to yield (3S,4S)-4-(1-chloromethylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-2-azetidinone.

reactant | (3S,4S)-4-(1-chloromethylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone | 320 g | ClCC(=C)[C@@H]1[C@H](C(N1C(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C33H36ClNO6
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | 3.8 liters | O | H2O
solvent | water | 2 liters | O | H2O
solvent | water | 5.2 liters | O | H2O
solvent | methanol | 1.5 liters | CO | CH4O
product | (3S,4S)-4-(1-chloromethylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-2-azetidinone | ClCC(=C)[C@@H]1[C@H](C(N1)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C16H18ClNO4
